US08106043B2
tert-Butyl 4-(7-fluoro-6-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)piperidine-1-carboxylate:
To a stirred solution of tert-butyl 4-(4-fluoro-2-(2-iodoethylthio)-5-nitrophenylamino)piperidine-1-carboxylate (394 mg, 0.750 mmol) in DMF (5 mL) was added potassium carbonate (207 mg, 1.500 mmol), and the resulting mixture was stirred at 60° C. for 2 hours and then at 90° C. overnight. The mixture was then cooled to room temperature, diluted with ethyl acetate, and washed with saturated sodium carbonate (3×), water, and brine. The organic phase was dried, filtered, concentrated, and then chromatographed using 1:9 ethyl acetate:hexanes giving the desired product (193 mg, 64.7%) as a red foam. 1H NMR (DMSO-d6) δ 7.42 (d, J=6.6 Hz, 1H), 7.30 (d, J=11.7 Hz, 1H), 4.10-3.95 (m, 2H), 3.91-3.79 (m, 1H), 3.41-3.36 (m, 2H), 3.13-3.09 (m, 2H), 2.99-2.78 (m, 2H), 1.73-1.63 (m, 2H), 1.63-1.51 (m, 2H), 1.41 (s, 9H); ESI-MS (m/z, %): 420 (MNa+, 52), 398 (MH+, 35), 342 (100), 298 (64).

reactant | tert-butyl 4-(4-fluoro-2-(2-iodoethylthio)-5-nitrophenylamino)piperidine-1-carboxylate | 0.750 mmol, 394 mg | FC1=CC(=C(C=C1[N+](=O)[O-])NC1CCN(CC1)C(=O)OC(C)(C)C)SCCI | C18H25FIN3O4S
reactant | potassium carbonate | 1.500 mmol, 207 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 4-(7-fluoro-6-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)piperidine-1-carboxylate | FC=1C(=CC2=C(SCCN2C2CCN(CC2)C(=O)OC(C)(C)C)C1)[N+](=O)[O-] | C18H24FN3O4S
